US05859051
Step C: Preparation of 2-hydroxy-1-propyldibenzofuran
A solution of 2-propenyloxydibenzofuran (0.9 grams) in ortho-dichlorobenzene 8 mL) was refluxed for 22 hours. Mixture was cooled to room temperature and was chromatographed over silica gel to afford the intermediate which was hydrogenated over 10% Pd/C catalyst (90 mg) in ethyl acetate for 18 hours. The reaction was filtered through Celite and all volatiles were removed to afford the title compound.

reactant | 2-propenyloxydibenzofuran | 0.9 grams | C(=CC)OC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C15H12O2
reactant | ortho-dichlorobenzene | 8 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | Pd/C | 90 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-hydroxy-1-propyldibenzofuran | OC1=C(C2=C(OC3=C2C=CC=C3)C=C1)CCC | C15H14O2
